US05288742
The procedures described in the portion of Example 1 which is concerned with the preparation of starting materials were repeated except that 3-methoxyphenylacetonitrile was alkylated in turn with ethyl iodide and allyl bromide. The 2-allyl-2-(3-methoxyphenyl)butyronitrile so obtained was treated with boron tribromide to give the required starting material in an overall yield of 46% as a gum.

reactant | 3-methoxyphenylacetonitrile | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | ethyl iodide | C(C)I | C2H5I
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 2-allyl-2-(3-methoxyphenyl)butyronitrile | yield of 46% | C(C=C)C(C#N)(CC)C1=CC(=CC=C1)OC | C14H17NO
